US08486979B2
5-(1H-benzo[d]imidazol-5-yl)-3-(pyridin-3-yl)-1,2,4-oxadiazole
The title compound was prepared according to Method C using 1H-benzo[d]imidazole-5-carboxylic acid (Aldrich) and N′-hydroxynicotinimidamide (Tyger). 1H NMR (300 MHz, DMSO-d6) δ 7.66 (ddd, J=8.1, 4.8, 1.0 Hz, 1 H), 7.75-7.98 (m, 1 H), 7.99-8.17 (m, 1 H), 8.34-8.56 (m, 3 H), 8.82 (dd, J=5.1, 1.7 Hz, 1 H), 9.28 (dd, J=2.2, 0.8 Hz, 1H) ppm; MS (DCI/NH3) m/z 264 (M+H)+.

reactant | 1H-benzo[d]imidazole-5-carboxylic acid | N1C=NC2=C1C=CC(=C2)C(=O)O | C8H6N2O2
reactant | N′-hydroxynicotinimidamide | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | NH3 | N | H3N
product | 5-(1H-benzo[d]imidazol-5-yl)-3-(pyridin-3-yl)-1,2,4-oxadiazole | N1C=NC2=C1C=CC(=C2)C2=NC(=NO2)C=2C=NC=CC2 | C14H9N5O
